US06174889B1
(1-Benzyl-1-H-indazol-5-yl)-(6-(5-[1,3-dioxolan-2-yl]-furan-2-yl)-pyrido[3,4-d]-pyrimidin-4-yl)-amine
(1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine (4.28 g), 2-(tributylstannyl)-5-(1,3-dioxolan-2-ylmethyl)-furan (J. Chem Soc., Chem. commun., (1988), p560) (10 g) and 1,4-bis(diphenylphosphino)butane palladium (II) chloride (1 g) were heated at reflux in dioxane (150 ml) for 24 hr (Procedure B). The solvent was removed in vacuo and the residue chromatographed on silica. Subsequent trituration gave the title compound as a yellow solid: δH [2H6]-DMSO 10.46 (1H,s), 9.17 (1H,s), 8.74 (1H,s), 8.52 (1H,s), 8.23 (1H,s), 8.18 (1H,s), 7.80-7.68 (2H,m), 7.41-7.22 (5H,m), 7.17 (1H,d), 6.80 (1H,d), 6.06 (1H,s), 5.71 (2H,s), 4.20-3.96 (4H,m).

reactant | (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine | 4.28 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)Cl | C21H15ClN6
reactant | 2-(tributylstannyl)-5-(1,3-dioxolan-2-ylmethyl)-furan | 10 g | C(CCC)[Sn](C=1OC(=CC1)CC1OCCO1)(CCCC)CCCC
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
catalyst | 1,4-bis(diphenylphosphino)butane palladium (II) chloride | 1 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
product | (1-Benzyl-1-H-indazol-5-yl)-(6-(5-[1,3-dioxolan-2-yl]-furan-2-yl)-pyrido[3,4-d]-pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=CC2)C2OCCO2 | C28H22N6O3
